US06828427B1
(S)-2-t-Butoxycarbonyl-3-hydroxymethyl-7-hydroxyoctahydroisoquinoline
To a solution of t-butyl alcohol (9.1 g, 123 mmol), 50 ml ether, and ammonia (150 mL) is added (S)-2-t-butoxycarbonyl-1,2,3,4-tetrahydro-3-hydroxymethyl-7-hydroxyisoquinoline (5 mmol). The solution is brought to reflux, and lithium shot (0.51 g, 82 mmol) is added over 30 minutes. The solution is allowed to reflux for 3 hours, and solid NH4Cl added until the color disappears. The ammonia is allowed to evaporate overnight, ice-water is added, and the organic layer separated. The aqueous layer is extracted with chloroform and the combined organic phases are washed with brine, dried and evaporated. The crude product is redissolved in methanol, 5% Pt/C added and the solution shaken under 3 atm H2 for 6 hours to complete the reduction. The catalyst is filtered and the solvent evaporated. The resulting residue is purified by silica gel flash column chromatography to give the title compound.

reactant | t-butyl alcohol | 123 mmol, 9.1 g | C(C)(C)(C)O | C4H10O
reactant | ammonia | 150 mL | N | H3N
reactant | (S)-2-t-butoxycarbonyl-1,2,3,4-tetrahydro-3-hydroxymethyl-7-hydroxyisoquinoline | 5 mmol | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1CO)O | C15H21NO4
reactant | lithium | [Li] | Li
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 50 ml | CCOCC | C4H10O
product | (S)-2-t-Butoxycarbonyl-3-hydroxymethyl-7-hydroxyoctahydroisoquinoline | C(C)(C)(C)OC(=O)N1CC2CC(CCC2C[C@H]1CO)O | C15H27NO4
